US06610694B1
0.459 g of 6-[3-[4-(diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one was suspended in 6 ml of N,N-dimethylformamide; 0.048 g of 60% oily sodium hydride was added, followed by stirring at room temperature for 30 minutes. 0.294 ml of ethyl 2-bromoisobutyrate was added, followed by stirring in an oil bath (bath temperature 110° C.) for 4 hours. After cooling, 0.048 g of 60% oily sodium hydride and 0.294 ml of ethyl 2-bromoisobutyrate were added, followed.by stirring in an oil bath (bath temperature 110° C.) for 10 hours. After cooling, ice water was added; the reaction mixture was extracted with ethyl acetate; the extract was washed with saturated saline and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (185:15:2). The desired fraction was collected and concentrated to yield 0.401 g of ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-3-oxo[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl]-2-methylpropionate as an oily substance. This oily substance was dissolved in 5 ml of ethyl acetate; 0.5 ml of a 4 N solution of hydrogen chloride in ethyl acetate was added, followed by concentration; the residue was powdered from diethyl ether; the powder was collected by filtration and dried to yield 0.300 g of the title compound.

reactant | 6-[3-[4-(diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.459 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C(NN2)=O)C2=CC=CC=C2 | C26H29N5O3
reactant | sodium hydride | 0.048 g | [H-].[Na+]
reactant | ethyl 2-bromoisobutyrate | 0.294 ml | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | sodium hydride | 0.048 g | [H-].[Na+]
reactant | ethyl 2-bromoisobutyrate | 0.294 ml | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-3-oxo[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl]-2-methylpropionate | 0.401 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C(N(N2)C(C(=O)OCC)(C)C)=O)C2=CC=CC=C2 | C32H39N5O5
